US08859773B2
Step 1: ethyl 3-iodo-1H-pyrazole-4-carboxylate
Ethyl 3-amino-1H-pyrazole-4-carboxylate (860.0 mg, 5.54 mmol) was dissolved in acetic acid (5 mL) and water (5 mL). Potassium iodide (921 mg, 5.54 mmol) was added and the mixture was stirred until all solids had dissolved. A solution of sodium nitrite (386 mg, 5.54 mmol) in water (2 mL) was then added dropwise. The reaction was stirred at room temperature for 2 minutes when stirring became hindered due to precipitate formation. Additional water (5 mL) was added and the reaction was allowed to stir overnight. The acetic acid was removed under reduced pressure. The brown residue was taken up in saturated aqueous sodium bicarbonate and was extracted with ethyl acetate (2×50 mL). The combined organics were washed with saturated aqueous sodium thiosulfate (50 mL), dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (10-80% ethyl acetate/heptanes) gave the title compound (863 mg, 59%) as a white solid. +APCI (M+H) 267.2; 1H NMR (400 MHz, CDCl3, δ): 12.63 (br. s., 1H), 8.13 (s, 1H), 4.34 (q, J=7.0 Hz, 2H), 1.38 (t, J=7.2 Hz, 3H).

reactant | Ethyl 3-amino-1H-pyrazole-4-carboxylate | 5.54 mmol, 860.0 mg | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | Potassium iodide | 5.54 mmol, 921 mg | [I-].[K+]
reactant | sodium nitrite | 5.54 mmol, 386 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | ethyl 3-iodo-1H-pyrazole-4-carboxylate | 863 mg, 59% | IC1=NNC=C1C(=O)OCC | C6H7IN2O2
